### PR TITLE
[Merged by Bors] - feat(Topology/CompletelyRegular): Add definition `CompletelyRegularSpace`

### PR DESCRIPTION
**Pull request by mapehe**
Add definitions `CompletelyRegularSpace` and `T35Space`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I've taken the liberty to mark this as "topology". Hope that's fine with you!

**Comment by mapehe** [comment]
For context, I'm trying to gradually build higher quality version of [this](https://github.com/leanprover-community/mathlib4/compare/master...mapehe:mathlib4:stone-cech-embedding#diff-2a6e4cb9e091ae059c58aee98c2b41490bf3da03d951473ce856c40a23363bffR601-R604) proof

File: Mathlib/Topology/CompletelyRegular.lean [hunk 1]
```diff
@@ -0,0 +1,111 @@
...
+open Filter Set Topology
+
+variable {α : Type u} [TopologicalSpace α] [T1Space α]
+variable {γ : Type u} [TopologicalSpace γ] [T2Space γ] [CompactSpace γ]
+
+@[mk_iff completelyRegularSpace_iff]
+class CompletelyRegularSpace (α : Type u) [TopologicalSpace α] [T1Space α] : Prop where
+  completely_regular :
+  ∀ (x : α), ∀ (K : Set α) (_: IsClosed K), Disjoint K {x} →
+    ∃ (f : C(α, ℝ)), EqOn f 0 {x} ∧ EqOn f 1 K ∧ ∀ x, f x ∈ Icc (0 : ℝ) 1
```
Comment (alreadydone) [inline Mathlib/Topology/CompletelyRegular.lean:56]: Maybe you're intentionally choosing your formulation but the following looks simpler:
```suggestion
  ∀ x : α, ∀ K : Set α, IsClosed K → x ∉ K →
    ∃ f : C(α, ℝ), f x = 0 ∧ EqOn f 1 K ∧ ∀ x, f x ∈ Icc (0 : ℝ) 1
```
Also note that `X Y Z` are preferred over `α γ` etc. if you're starting a new file.

**Comment by alreadydone** [comment]
Note it's possible to define completely regular space using [existence of a compatible uniform structure](https://en.wikipedia.org/wiki/Tychonoff_space#Uniform_structures), and I think it would be preferred due to less imports. I don't know the proof of equivalence with the current definition, but I think it's something cool to add to mathlib.

**Comment by mapehe** [comment]
> Note it's possible to define completely regular space using [existence of a compatible uniform structure](https://en.wikipedia.org/wiki/Tychonoff_space#Uniform_structures), and I think it would be preferred due to less imports (no mention of real-valued functions). I don't know the proof of equivalence with the current definition, but I think it's something cool to add to mathlib.

Thanks @alreadydone. I'll need to look into that.

File: Mathlib/Topology/CompletelyRegular.lean [hunk 2]
```diff
@@ -0,0 +1,111 @@
...
+    let ⟨u, v, hu, hv, hhu, hhv, huv⟩ := T2Space.t2 (0 : ℝ) 1 zero_ne_one
+    have mem_u : f ⁻¹' u ∈ (𝓝 a) := by
+      rw [mem_nhds_iff]
+      use f ⁻¹' u
+      have L : a ∈ ↑f ⁻¹' u := by
+        rw [mem_preimage]
+        have T : f a = 0 := by
+          apply hf
+          rw [mem_singleton_iff]
+        exact Eq.mpr (id (T ▸ Eq.refl (f a ∈ u))) hhu
```
Comment (alexjbest) [inline Mathlib/Topology/CompletelyRegular.lean:78]: This looks like a bit too an extreme use of `show_term`, was it just a rw before or something? That's probably more readable

File: Mathlib/Topology/CompletelyRegular.lean [hunk 3]
```diff
@@ -0,0 +1,111 @@
...
+  have : T0Space α := by apply T1Space.t0Space
+  have : RegularSpace α := by
+    rw [regularSpace_iff]
+    intros s a hs ha
+    rw [Filter.disjoint_iff]
+    have d : Disjoint s {a} := by
+      exact Eq.mpr (id (propext disjoint_singleton_right ▸ Eq.refl (Disjoint s {a}))) ha
+    let h := CompletelyRegularSpace.completely_regular a s hs d
+    let f := h.choose
+    let ⟨hf, hhf, _⟩ := h.choose_spec
```
Comment (alexjbest) [inline Mathlib/Topology/CompletelyRegular.lean:68]: If this is a proposition it should be a  `have` not a `let`

Comment (alexjbest) [reply Mathlib/Topology/CompletelyRegular.lean:68]: There is also a tactic `choose` that can make this sort of thing a bit less annoying to write

File: Mathlib/Topology/CompletelyRegular.lean [hunk 4]
```diff
@@ -0,0 +1,111 @@
...
+      simp only [eqOn_singleton, Pi.zero_apply, ge_iff_le, zero_le_one, not_true, gt_iff_lt,
+        mem_Icc]
+      rw [vo]
+      intro x hx
+      rw [mem_preimage]
+      have P : (Exists.choose h) x = 1 := hhf hx
+      simp only [eqOn_singleton, Pi.zero_apply, ge_iff_le, zero_le_one, not_true, gt_iff_lt,
+        mem_Icc] at P
+      rw [P]
+      exact hhv
```
Comment (alexjbest) [inline Mathlib/Topology/CompletelyRegular.lean:95]: You could use `rwa` (rewrite then assumption), here
```suggestion
      rwa [P]
```

File: Mathlib/Topology/CompletelyRegular.lean [hunk 5]
```diff
@@ -0,0 +1,111 @@
...
+    have duv : Disjoint (f ⁻¹' v) (f ⁻¹' u) := by
+      rw [Set.disjoint_iff, inter_comm, subset_empty_iff] at huv
+      rw [Set.disjoint_iff, ←preimage_inter, huv, preimage_empty]
+    exact
+      Exists.intro (↑f ⁻¹' v)
+        { left := mem_v, right := Exists.intro (↑f ⁻¹' u) { left := mem_u, right := duv } }
```
Comment (alexjbest) [inline Mathlib/Topology/CompletelyRegular.lean:101]: You might find the anonynous constructor notation helpful here, you can use `\<a, b\>` in place of `Exists.intro a b`, and you can nest this and replace `{left := a, right := b}` with the same thing too.

File: Mathlib/Topology/CompletelyRegular.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:68]: Isn't this simply `obtain ⟨f, hf, hhf, _⟩ := CompletelyRegularSpace.completely_regular a s hs d`?
And if you don't want the `_` you can replace it by `-` so it doesn't show up in the context.

File: Mathlib/Topology/CompletelyRegular.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:101]: i.e., `⟨f ⁻¹' v, mem_v, f ⁻¹' u, mem_u, duv⟩`

**Comment by mapehe** [comment]
Thanks for the feedback on the code @alreadydone and @alexjbest. I made changes accordingly, happy to iterate, if you have further thoughts.

**Comment by mapehe** [comment]
I feel like [this](https://github.com/leanprover-community/mathlib4/pull/7926/files#diff-bb6f0d47c3c6cb637ea412277814b30ac28d936daea70d1401bf6af6a256ba28R65-R68) should be easier, but I couldn't find a single `apply` for that. Maybe [these](https://github.com/leanprover-community/mathlib4/pull/7926/files#diff-bb6f0d47c3c6cb637ea412277814b30ac28d936daea70d1401bf6af6a256ba28R103-R110) two too.

**Comment by mapehe** [comment]
> Note it's possible to define completely regular space using [existence of a compatible uniform structure](https://en.wikipedia.org/wiki/Tychonoff_space#Uniform_structures), and I think it would be preferred due to less imports (no mention of real-valued functions). I don't know the proof of equivalence with the current definition, but I think it's something cool to add to mathlib.

I thought about this a little bit. What I originally set out to work towards was
```
theorem denseEmbedding_stoneCechUnit [TopologicalSpace X] [T1Space X] [CompletelyRegularSpace X] :
    @DenseEmbedding _ _ _ _ (stoneCechUnit : X → StoneCech X)
```
The proof I currently have for that relies on [these](https://github.com/leanprover-community/mathlib4/pull/7926/files#diff-bb6f0d47c3c6cb637ea412277814b30ac28d936daea70d1401bf6af6a256ba28R56) functions in two ways

1.  Using them, you get a basis for the topology of `X`.
2. The codomain is a compact Hausdorff space. This enables the use of the universal property `stoneCechExtend_extends`.

I couldn't think of a simple way to understand the proof in terms of uniform structures, so, to me, it seems that this alternative definition would lead to a different direction with other possible goals. I guess it really comes down to what's considered interesting.

**Comment by alreadydone** [comment]
I think it's fine to use the current definition for now, and we may or may not prefer to refactor it later using the uniformizable definition ... I think we could just add an instance `[UniformSpace X] : CompleteRegularSpace X` once the equivalence is proved.

**Comment by mapehe** [comment]
> I think it's fine to use the current definition for now, and we may or may not prefer to refactor it later using the uniformizable definition ... I think we could just add an instance `[UniformSpace X] : CompleteRegularSpace X` once the equivalence is proved. I think this file will import real numbers anyway so my comment about imports is actually moot.

I think it may just be my lack of vision: As you mentioned above, it's possible to define these spaces and the claim I'm interested in without ever referring to reals. It doesn't seem (?) unreasonable to expect there would be some proof without reals too. Unfortunately that ventures to an area I don't know much about.

On the other hand, the present definition is a standard ingredient in the literature, so I'd expect it should be a part of mathlib in some form at some point. Perhaps there is an option to work with this definition for now, and improve on these issues later on? I was planning to add a couple of intermediary theorems next which are also standard stuff so perhaps there is recyclable material even if the definitions are rearranged in the future?

File: Mathlib/Topology/CompletelyRegular.lean [hunk 6]
```diff
@@ -0,0 +1,109 @@
...
+  continuous functions to the unit interval. -/
+@[mk_iff completelyRegularSpace_iff]
+class CompletelyRegularSpace (X : Type u) [TopologicalSpace X] [T1Space X] : Prop where
+  completely_regular : ∀ (x : X), ∀ (K : Set X) (_: IsClosed K), x ∉ K →
+    ∃ f : X → I, Continuous f ∧ f x = 0 ∧ EqOn f 1 K
+
+instance CompletelyRegularSpace.t3space [CompletelyRegularSpace X] : T3Space X := by
+  have : T0Space X := by apply T1Space.t0Space
+  have : RegularSpace X := by
+    have ne : (0 : I) ≠ 1 := by
```
Comment (mapehe) [inline Mathlib/Topology/CompletelyRegular.lean:62]: Is there a one-liner for this somewhere?

File: Mathlib/Topology/CompletelyRegular.lean [hunk 7]
```diff
@@ -0,0 +1,109 @@
...
+  rw [completelyRegularSpace_iff]
+  intro x K hK hx
+  have cx : IsClosed {x} := by apply T1Space.t1
+  have d : Disjoint {x} K := by
+    rw [Set.disjoint_iff, subset_empty_iff, singleton_inter_eq_empty]
+    exact hx
+  let ⟨⟨f, cf⟩, hfx, hfK, hficc⟩ := exists_continuous_zero_one_of_closed cx hK d
+  let g : X → I := fun x => ⟨f x, hficc x⟩
+  have cg : Continuous g := cf.subtype_mk hficc
+  have hgx : g x = ⟨0, zero_mem⟩ := by
```
Comment (mapehe) [inline Mathlib/Topology/CompletelyRegular.lean:101]: Is there a one-liner for this and `hgK`?

File: Mathlib/Topology/CompletelyRegular.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:62]: [one_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/NeZero.html#one_ne_zero).symm should work

File: Mathlib/Topology/CompletelyRegular.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:96]: Can't you simply write `g x = 0`? I think `Subtype.ext hfx` solves this.

File: Mathlib/Topology/CompletelyRegular.lean [hunk 8]
```diff
@@ -0,0 +1,104 @@
...
+    rw [mk_zero, ←coe_eq_zero]
+    apply hfx
+    rw [mem_singleton_iff]
+  have hgK : EqOn g 1 K := by
+    intro k
+    rw [Pi.one_apply, ←coe_eq_one]
+    apply hfK
```
Comment (alreadydone) [inline Mathlib/Topology/CompletelyRegular.lean:103]: Something like `fun k hk => Subtype.ext (hfK k hk)`
BTW you can Shift-select multiple lines when adding comments.

**Comment by mapehe** [comment]
Thanks, was able to drop some boring lines based on your tips @alreadydone

File: Mathlib/Topology/CompletelyRegular.lean [hunk 9]
```diff
@@ -0,0 +1,93 @@
...
+open Set Topology unitInterval
+
+variable {X : Type u} [TopologicalSpace X] [T1Space X]
+
+/-- A T1 space X is completely regular if points can be separated from closed sets via
+  continuous functions to the unit interval. -/
+@[mk_iff completelyRegularSpace_iff]
+class CompletelyRegularSpace (X : Type u) [TopologicalSpace X] [T1Space X] : Prop where
+  completely_regular : ∀ (x : X), ∀ (K : Set X) (_: IsClosed K), x ∉ K →
+    ∃ f : X → I, Continuous f ∧ f x = 0 ∧ EqOn f 1 K
```
Comment (alreadydone) [inline Mathlib/Topology/CompletelyRegular.lean:57]: I think you should remove `T1Space` from the definition, because e.g. on [Wikipedia](https://en.wikipedia.org/wiki/Tychonoff_space) a completely regular space is not necessarily T1; if it's T0 then it's T3 and called a Tychonoff space. The equivalence with uniformizability only holds without the T1 condition, since a uniform space isn't necessarily T1.

Also I think you can use `C(X, I)` rather than separating out the `Continuous` condition. I know that @PatrickMassot urged you to separate it out, but I don't see the point: if you're getting out a continuous map from a `CompletelyRegularSpace`, then working with a bundled continuous map will only be convenient; if you're proving a `CompletelyRegularSpace`, then writing `⟨⟨f, cont_f⟩, ..⟩` instead of `⟨f, cont_f, ...⟩` isn't really much more difficult. I can see that an unbundled `Continuous` condition would be more convenient if it appears as an argument to a theorem, but not here. Note also that [Urysohn's lemma](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UrysohnsLemma.html#exists_continuous_zero_one_of_closed) is stated using bundled ContinuousMap.

Comment (mapehe) [reply Mathlib/Topology/CompletelyRegular.lean:57]: About the terminology: I went back and forth a bit before making this PR, but eventually decided to use the definition given in Walker's book. Reconsidering this, I realize that some of the things I'm planning to add do not require the T1 bit, so it could be better to exclude T1 here, and maybe add a definition for another type of space (`Tychonoff`??) with T1 included.

About the bundled functions: I don't really have the sufficient background in contributing to mathlib to add any input on that.

Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:57]: > it could be better to exclude T1 here, and maybe add a definition for another type of space (TychonoffSpace??) with T1 included.

Yeah it's definitely reasonable, e.g. [T3Space](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation.html#T3Space) is T0 + RegularSpace. So CompleteRegularSpace without T0 is consistent with that, and CompleteRegularSpace + T0 could be called T35Space in analogy with [T25Space](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation.html#T25Space).

Comment (PatrickMassot) [reply Mathlib/Topology/CompletelyRegular.lean:57]: I just checked in Mathlib and *every* use of Urysohn's lemma unpack the bundle continuous map. So thanks @alreadydone for pointing out we should restate that lemma without bundling. I think it is not worth the trouble to fix Urysohnś lemma, but let's not reproduce that mistake here.

Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:57]: Excuse me? I don't see it being unpacked at all in Metrizable, CompHaus/Basic, ContinuousFunction/Ideals, ContinuousMapDense among the [search results](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4%20exists_continuous_zero_one_of_closed&type=code). Why would it be unpacked? ContinuousMap has a FunLike instance so if you want the function you can just pretend it's a function, and for the `Continuous` condition you can just write `f.continuous` or even `f.2`.

File: Mathlib/Topology/CompletelyRegular.lean [hunk 10]
```diff
@@ -0,0 +1,93 @@
...
+
+instance CompletelyRegularSpace.t3space [CompletelyRegularSpace X] : T3Space X := by
```
Comment (PatrickMassot) [inline Mathlib/Topology/CompletelyRegular.lean:59]: This proof is painful because you do not let filters help you. Whenever you need to discuss elements of a filter, you are either building the early filter library or fighting it. Here you are fighting it.

Once you have your function `f` sending `a` to `0` and `s` to 1, the intuitive proof is the following: 
* `f` sends the "set" of points that are close to `a` into the "set" of points that are close to `0` (by continuity of `f` and assumption on `f a`).
* `f` sends the "set" of points that are near `s` into the "set" of points that are close to `1` (by continuity of `f` and assumption on `f '' s`).
* Because `I` is `T2` and `0 ≠ 1`, those target "sets" are disjoints, hence the sources "sets" are disjoint.

The above arguments uses filters on `X` as generalized sets in `X`, it never uses a set of `X` seen as a member of a filter.

Unfortunately two lemmas seem to be missing from Mathlib. The first one is very surprising. It covers the "hence" in the last sentence above. Mathlib seems to have only the iff version which requires an injectivity assumption. Note the proof is fully obfuscated since the statement is obvious.

```lean
-- This lemma needs to go in `Order.Filter.Basic`, before `disjoint_map`
lemma Filter.disjoint_of_map {α β : Type*} {F G : Filter α} {f : α → β}
    (h : Disjoint (map f F) (map f G)) : Disjoint F G :=
    disjoint_iff.mpr <| map_eq_bot_iff.mp <| le_bot_iff.mp <| trans map_inf_le (disjoint_iff.mp h)
```

Then it  is slightly more convenient to add a special case of a lemma we already have:
```lean
-- This lemma needs to go in `Topology.NhdsSet`, after `Continuous.tendsto_nhdsSet`.
lemma Continuous.tendsto_nhdsSet_nhds {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
    {s : Set X} {y : Y} {f : X → Y} (h : Continuous f) (h' : EqOn f (fun _ ↦ y) s) : 
    Tendsto f (𝓝ˢ s) (𝓝 y) := by 
  rw [← nhdsSet_singleton]
  exact h.tendsto_nhdsSet h'
```
(needing to add stuff there is a lot less surprising since `nhdsSet` isn't very much used).

Now you need to pay for your idea to use `I` as the target instead of `ℝ`. It seems Mathlib doesn't know that `0 ≠ 1` in this type.
```
instance : NeZero (1 : I) := ⟨sorry⟩
```

And then you are ready to follow the intuitive sketch above:
```lean
instance CompletelyRegularSpace.t3space [CompletelyRegularSpace X] : T3Space X := by
  have : T0Space X := by apply T1Space.t0Space
  have : RegularSpace X := (regularSpace_iff X).mpr <| by    
    intro s a hs ha
    obtain ⟨f, cf, hf, hhf⟩ := CompletelyRegularSpace.completely_regular a s hs ha
    apply disjoint_of_map (f := f)
    apply Disjoint.mono (cf.tendsto_nhdsSet_nhds hhf) cf.continuousAt
    exact disjoint_nhds_nhds.mpr (hf.symm ▸ zero_ne_one).symm
  exact {}
```

Comment (alreadydone) [reply Mathlib/Topology/CompletelyRegular.lean:59]: Threre is [unitInterval.instNeZeroElemRealUnitIntervalHasZeroOfNatToOfNat1HasOne](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UnitInterval.html#unitInterval.instNeZeroElemRealUnitIntervalHasZeroOfNatToOfNat1HasOne) and I'm adding ZeroLEOne and BoundedOrder [here](https://github.com/leanprover-community/mathlib4/pull/7915/files#diff-fa7d5572056db41c1badb453962d73e25039fdaab5aa06bbd70db9221b99727fR75-R77).

File: Mathlib/Topology/CompletelyRegular.lean (hunk 9 above)
Comment (PatrickMassot) [reply Mathlib/Topology/CompletelyRegular.lean:57]: Oh I see my mistake. I saw huge unpacking in lines like `let ⟨f, hfs, hft, hf⟩ := exists_continuous_zero_one_of_closed hs ht hd`, but you are right that the bundle continuous map is not unpacked. So there is indeed no need to fix those (but the also bring nothing).

File: Mathlib/Topology/CompletelyRegular.lean (hunk 10 above)
Comment (mapehe) [reply Mathlib/Topology/CompletelyRegular.lean]: Thanks, this simpler proof will definitely be useful as a reference for me.

I added the two theorems to the designated places. Someone seems to have added `NeZero` in master recently, so no need to add anything there probably.

**Comment by mapehe** [comment]
@alreadydone I switched to separate definitions of `CompletelyRegularSpace` and `T35Space` and adjusted the theorems about which space types imply others accordingly. I think the current terminology indeed fits much better with the existing space types.

**Comment by PatrickMassot** [comment]
bors merge

**Comment by PatrickMassot** [comment]
Thanks @mapehe, and congratulations for your first accepted PR to Mathlib!
